US08242125B2
Potassium carbonate (289 mg, 2.09 mmol) is added to a solution of acetic acid 4-[4-fluoro-2-methyl-1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-2-ylmethyl ester (1.05 g, 2.09 mmol) in MeOH (40 mL) at 23° C. The resulting mixture is stirred at 23° C. for 1 h. Saturated aqueous NH4Cl (50 mL) and water (20 mL) are added and the mixture is extracted with EtOAc (3×50 mL). The organic layers are combined, washed with brine (30 mL), dried (Na2SO4), and concentrated. The residue is purified by silica gel chromatography (10-100% EtOAc/heptane) to provide 4-fluoro-5-(2-hydroxymethyl-pyrimidin-4-yloxy)-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 461.0 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 11.02 (s, 1H) 8.69 (d, J=5.56 Hz, 1H) 8.12 (s, 1H) 7.91 (s, 1H) 7.66 (t, J=7.96 Hz, 1H) 7.52 (t, J=8.34 Hz, 2H) 7.17 (dd, J=8.84, 7.83 Hz, 1H) 7.05 (d, J=5.56 Hz, 1H) 6.63 (s, 1H) 5.14 (t, J=6.19 Hz, 1H) 4.38 (d, J=6.32 Hz, 2H) 2.59 (s, 3H).

reactant | Potassium carbonate | 2.09 mmol, 289 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid 4-[4-fluoro-2-methyl-1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-2-ylmethyl ester | 2.09 mmol, 1.05 g | FC1=C2C=C(N(C2=CC=C1OC1=NC(=NC=C1)COC(C)=O)C(NC1=CC(=CC=C1)C(F)(F)F)=O)C | C24H18F4N4O4
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | water | 20 mL | O | H2O
solvent | MeOH | 40 mL | CO | CH4O
product | 4-fluoro-5-(2-hydroxymethyl-pyrimidin-4-yloxy)-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C(=CC2=C(C(=CC=C12)OC1=NC(=NC=C1)CO)F)C)(F)F | C22H16F4N4O3
